* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.18287823401e-10
.param C2=1.88189037937e-11
.param Ce=7.81753999797e-12
.param Ch=1.13550681392e-10
.param Csh=1.02384489734e-10
.param L1=4.33652961416e-07
.param Lh=8.58843496281e-08
.param Lp=5.18666811213e-07
.param Rp=14.6403985884
.param Vsrc_amp=509.31277708
.param ne=3.61720020689e+14
.param nu_m=159443239.808

* Sources
Vsrc src 0 SIN(0 509.31277708 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 14.6403985884
Lbulk nb ns 5.18666811213e-07
Csh ns n 1.02384489734e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
